US05516788
iii) 3,5-dimethyl-4-ethoxyphenylhydrazine
To a cooled (+5° C.), stirred suspension of 9.2 g (0.0557 mol) of 3,5-dimethyl-4-ethoxyaniline in 50 ml of 6N HCl (aq), 3.8 g (0.0557 mol) of NaNO2 in 15 ml of water was added during 30 minutes. After stirring at +5° C. for 30 minutes further, the resulting mixture was added under argon and stirring to 29.1 g (0.167 mol) of sodium dithionite dissolved in 150 ml of water. After stirring for 20 minutes at +5° C., 250 ml of ether was added followed by alkalinization to pH 9 with 10N sodium hydroxide solution. The organic phase was separated and washed with sodium chloride solution. After drying (Na2SO4) the product was precipitated as the hydrochloride by addition of HCl(g)/ether (to pH 3). Filtration and washing with ether gave 9.4 g (78%) of the product.

reactant | 3,5-dimethyl-4-ethoxyaniline | 0.0557 mol, 9.2 g | CC=1C=C(N)C=C(C1OCC)C | C10H15NO
reactant | NaNO2 | 0.0557 mol, 3.8 g | N(=O)[O-].[Na+]
reactant | sodium dithionite | 0.167 mol, 29.1 g | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
reactant | sodium hydroxide | 10N | [OH-].[Na+]
solvent | HCl | 6N, 50 ml | Cl | ClH
solvent | water | 15 ml | O | H2O
solvent | water | 150 ml | O | H2O
solvent | ether | 250 ml | CCOCC | C4H10O
product | 3,5-dimethyl-4-ethoxyphenylhydrazine | 9.4 g, 78% | CC=1C=C(C=C(C1OCC)C)NN | C10H16N2O
